US08008303B2
5′-Amino-2′-trifluoromethoxy-biphenyl-4-carboxylic acid {4-[4-(propane-1-sulfonyl)-piperazin-1-ylmethyl]-phenyl}-amide
(4′-{4-[4-(propane-1-sulfonyl)-piperazin-1-ylmethyl]-phenylcarbamoyl}-6-trifluoromethoxy-biphenyl-3-yl)-carbamic acid tert-butyl ester (459 mg) in DCM (4 ml) and Trifluoroacetic Acid (4 ml) was stirred for 2 hrs. The mixture was evaporated and the residue partitioned between EtOAc and saturated potassium carbonate. The dried extracts were then evaporated giving the title compound as a tan foam (374 mg).

reactant | (4′-{4-[4-(propane-1-sulfonyl)-piperazin-1-ylmethyl]-phenylcarbamoyl}-6-trifluoromethoxy-biphenyl-3-yl)-carbamic acid tert-butyl ester | 459 mg | C(C)(C)(C)OC(NC=1C=C(C(=CC1)OC(F)(F)F)C1=CC=C(C=C1)C(NC1=CC=C(C=C1)CN1CCN(CC1)S(=O)(=O)CCC)=O)=O | C33H39F3N4O6S
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
solvent | Trifluoroacetic Acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5′-Amino-2′-trifluoromethoxy-biphenyl-4-carboxylic acid {4-[4-(propane-1-sulfonyl)-piperazin-1-ylmethyl]-phenyl}-amide | 374 mg | C(CC)S(=O)(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)N)OC(F)(F)F | C28H31F3N4O4S
